US06288041B1
Synthetic Example BB15: Synthesis of 3α-N-(N-tert-butyloxycarbonylglycyl)amino-cholestane
By using tert-butyloxycarbonylglycine (522 mg, 2.98 mmol) and 3α-aminocholestane (1.16 g, 2.99 mmol), the title compound was obtained in the same manner as in Synthetic Example BB1 (1.65 g, quantitative).

reactant | tert-butyloxycarbonylglycine | 2.98 mmol, 522 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 3α-aminocholestane | 2.99 mmol, 1.16 g | N[C@H]1CC2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H49N
product | 3α-N-(N-tert-butyloxycarbonylglycyl)amino-cholestane | C(C)(C)(C)OC(=O)NCC(=O)N[C@H]1CC2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C34H60N2O3
